US07906546B2
To 3.0 g (14.0 mmol) of benzenesulfonyl-acetic acid hydrazide in 30 mL of phosphorus oxychloride, 1.47 g (17.0 mmol, 1.2 eq) of cyclopropanecarboxylic acid were added, and heated at reflux for 2 hours. The reaction mixture was very carefully poured onto ice, extracted with EtOAc, filtered and evaporated. Column chromatography on silica gel with EtOAc/heptane 2:1 yielded 1.49g (41%) of 2-benzenesulfonylmethyl-5-cyclopropyl-[1,3,4]oxadiazole as a white solid, MS: 265 (MH+).

reactant | benzenesulfonyl-acetic acid hydrazide | 14.0 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)NN | C8H10N2O3S
reactant | cyclopropanecarboxylic acid | 17.0 mmol, 1.47 g, 1.2 eq | C1(CC1)C(=O)O | C4H6O2
solvent | phosphorus oxychloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-benzenesulfonylmethyl-5-cyclopropyl-[1,3,4]oxadiazole | 1.49g, 41% | C1(=CC=CC=C1)S(=O)(=O)CC=1OC(=NN1)C1CC1 | C12H12N2O3S
